US08466186B2
N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]benzyl}-1-trifluoromethyl-cyclopropaneamide
A mixture of N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (0.15 g; 0.45 mmol) and 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (0.14 g; 0.45 mmol) in DMF (3 mL) was stirred overnight at rt. EDC (0.086 g; 0.45 mmol) was added and the mixture was heated to 90° C. for 1 h. The mixture was poured in water, extracted with DCM and the combined organic layer was washed with brine, dried over Na2SO4, filtered, concentrated and purified by column chromatography.

reactant | N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.45 mmol, 0.15 g | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.45 mmol, 0.14 g | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | EDC | 0.45 mmol, 0.086 g
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{4-Chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]benzyl}-1-trifluoromethyl-cyclopropaneamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C26H25Cl2F6N5O
